### PR TITLE
add erdős problem 677

### LINKED ISSUE #872: Erdős Problem 677
### What is the conjecture
    
https://www.erdosproblems.com/677

  Let $M(n,k)=[n+1,\ldots,n+k]$ be the least common multiple of $\\{n+1,\ldots,n+k\\}$.

Is it true that for all $m\geq n+k$
$$M(n,k) \neq M(m,k)?$$
  

Status:  open

### PR DESCRIPTION
**Pull request by HerrLaal**
This adds a formalization of Erdős problem 677. If you'd like me to change something or to add for example the Thue-Siegel theorem, I'm happy to do so :)

fixes #872

### CODE REVIEW

File: FormalConjectures/ErdosProblems/677.lean [hunk 1]
```diff
@@ -0,0 +1,53 @@
...
+
+/--
+Write $M(n, k)$ be the least common multiple of ${n+1, \dotsc, n+k}$, denoted here as
+`lcmInterval n k`.
+-/
+def lcmInterval (n k : ℕ) : ℕ := (Finset.Ioc n (n + k)).lcm id
+
+/-
+Erdős expected very few solutions for M(n,k)=M(m,l), where m ≥ n+k and l > 1. The only solutions he
+ knew were the followings.
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/677.lean]:
```suggestion
 knew were the following.
```

File: FormalConjectures/ErdosProblems/677.lean [hunk 2]
```diff
@@ -0,0 +1,53 @@
...
+
+/-
+We use the same definition as is Erdős Problem 678.
+-/
+
+/--
+Write $M(n, k)$ be the least common multiple of ${n+1, \dotsc, n+k}$, denoted here as
+`lcmInterval n k`.
+-/
+def lcmInterval (n k : ℕ) : ℕ := (Finset.Ioc n (n + k)).lcm id
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/677.lean]: Since you are reusing a definition from `678.lean` I suggest you create a new file in `ForMathlib` containing this definition. Possibly it could be put in a new file `Data/Nat/Interval.lean`. A bonus (but optional) would be if you wanted to try to find the minimal assumptions so that this definition makes sense (it should make sense outside just the naturals). For example `Finset.lcm` that you are using is defined in any `NormalizedGCDMonoid`.

File: FormalConjectures/ErdosProblems/677.lean [hunk 3]
```diff
@@ -0,0 +1,53 @@
...
+lemma lcmInterval_eq_example2 : lcmInterval 3 4 = lcmInterval 19 2 := by decide
+
+/--
+Denote by M(n,k) the least common multiple of the finite set {n + 1, ...,  n + k}.
+Is it true that for all m ≥ n + k, we get M(m, k) ≠ M(n, k)?
+-/
+@[category research open, AMS 11]
+theorem erdos_677 :
+    ∀ m n k, m ≥ n + k → lcmInterval m k ≠ lcmInterval n k := by
+  sorry
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/677.lean:43]: Here you need to be careful with your assumptions. I suspect that at least you need to assume `k > 0` (even though `Finset.Ico n n` is empty, the lcm will have the default value `1`).

**Comment by callesonne** [comment]
And thanks for the contribution! :)

File: FormalConjectures/ErdosProblems/677.lean [hunk 4]
```diff
@@ -0,0 +1,48 @@
...
+/-!
+# Erdős Problem 677
+*Reference:* [erdosproblems.com/677](https://www.erdosproblems.com/677)
+-/
+
+namespace Erdos677
+
+open Finset
+
+/- Denote by $M(n, k)$ the least common multiple of ${n+1, \dotsc, n+k}$. -/
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/677.lean]: This comment is a bit out of place, Could you just copy paste it as the starting line to each of the two comments below?

File: FormalConjectures/ErdosProblems/677.lean [hunk 5]
```diff
@@ -0,0 +1,48 @@
...
+
+/-
+Erdős expected very few solutions for M(n,k)=M(m,l), where m ≥ n+k and l > 1. The only solutions he
+ knew were the following.
+-/
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/677.lean]: I would either remove this, or make it a docstring to each of the examples below (we generally use very few non-docstring comments in formal conjectures).

File: FormalConjectures/ErdosProblems/678.lean [hunk 6]
```diff
@@ -25,11 +25,7 @@ open Asymptotics Filter Finset
 
 namespace Erdos678
 
-/--
-Write $M(n, k)$ be the least common multiple of ${n+1, \dotsc, n+k}$, denoted here as
-`lcmInterval n k`.
--/
-def lcmInterval (n k : ℕ) : ℕ := (Finset.Ioc n (n + k)).lcm id
+/- Denote by $M(n, k)$ the least common multiple of ${n+1, \dotsc, n+k}$. -/
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/678.lean]: Same as above regarding this comment.

File: FormalConjectures/ErdosProblems/677.lean [hunk 7]
```diff
@@ -0,0 +1,48 @@
...
+lemma lcmInterval_eq_example2 : lcmInterval 3 4 = lcmInterval 19 2 := by decide
+
+/--
+Denote by M(n,k) the least common multiple of the finite set {n + 1, ...,  n + k}.
+Is it true that for all m ≥ n + k, we get M(m, k) ≠ M(n, k)?
+-/
+@[category research open, AMS 11]
+theorem erdos_677 :
+    ∀ (m n k : ℕ), k > 0 → m ≥ n + k → lcmInterval m k ≠ lcmInterval n k := by
+  sorry
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/677.lean:43]: Could you add a TODO below here asking to formalize the other statements on the webpage (and of course you are very welcome to formalize any of them as well if you want)?
